US05041460
A solution of potassium tert-butoxide (0.92 g) in dry tetrahydrofuran (10 ml) was added to a stirred suspension of (methoxymethyl)triphenylphosphonium chloride (2.8 g) in tetrahydrofuran (30 ml) under a nitrogen atmosphere, at ice-bath temperature. After 15 min, a solution of methyl 4-(5-formyl-1-propylindol-3-ylmethyl)-3-methoxybenzoate (2.0 g) in tetrahydrofuran (20 ml) was added dropwise. After 30 min, the mixture was poured onto water, and acidified with 1M hydrochloric acid. The mixture was extracted with ethyl acetate (twice), and the extract washed with water, and brine, then dried (MgSO4) and evaporated. The residue was dissolved in methylene chloride, ether was added to give a precipitate, and the isolated precipitate was purified by flash chromatography, eluting with 85:15 hexane:ethyl acetate, to give methyl 4-[5-(2-methoxyvinyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate (1.2 g, 56%) as an oil; partial NMR (300 MHz, DMSO-d6): 0.80(t, 3H, CH3), 1.70(m, 2H, CH2), 3.60 and 3.70(2xs, 3H, OCH3, E and Z isomers), 3.83(s, 3H, OCH3), 3.90(s, 3H, OCH3), 4.03(m, 4H, NCH2, ArCH2Ar').

reactant | potassium tert-butoxide | 0.92 g | CC(C)([O-])C.[K+]
reactant | (methoxymethyl)triphenylphosphonium chloride | 2.8 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methyl 4-(5-formyl-1-propylindol-3-ylmethyl)-3-methoxybenzoate | 2.0 g | C(=O)C=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC | C22H23NO4
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | methyl 4-[5-(2-methoxyvinyl)-1-propylindol-3-ylmethyl]-3-methoxybenzoate | 1.2 g, 56% | COC=CC=1C=C2C(=CN(C2=CC1)CCC)CC1=C(C=C(C(=O)OC)C=C1)OC | C24H27NO4
